US07067506B2
Step 3: 3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester.
To a stirred solution of 3-methoxy-4-(4-nitro-phenoxycarbonylamino)-benzoic acid methyl ester (11.7 g, 33.8 mmol) in 34 mL NMP at room temperature under nitrogen was added 5-methyl-2-aminopyrazine (3.69 g, 33.8 mmol) and the reaction was immersed in an 85° C. oil bath. After 6 hours the reaction was allowed to cool to room temperature and a precipitate formed. EtOAc (200 mL) was added and the precipitate was isolated by filtration (4.7 g, 44%). 1H-NMR (400 MHz, d6-DMSO) 6 8.79 (br s, 1H), 8.36 (d, 1H), 8.23 (s, 1H), 7.60 (d, 1H), 7.52 (s, 1H), 3.98 (s, 3H), 3.81 (s, 3H), 2.42 (s, 3H).

reactant | 3-methoxy-4-(4-nitro-phenoxycarbonylamino)-benzoic acid methyl ester | 33.8 mmol, 11.7 g | COC(C1=CC(=C(C=C1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC)=O | C16H14N2O7
reactant | 5-methyl-2-aminopyrazine | 33.8 mmol, 3.69 g | CC=1N=CC(=NC1)N | C5H7N3
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 34 mL | CN1CCCC1=O | C5H9NO
product | 3-Methoxy-4-[3-(5-methyl-pyrazin-2-yl)-ureido]-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OC)=O | C15H16N4O4
